US05643958
(1) Preparation of Ethyl (2S,3S)-2-[N-{(1R,2R,4E)-5-(2-benzoxazolyl)-1-methyl-2-(3,4-methylenedioxyphenyl)-4-pentenyl}-N-(2-naphthylmethyl)carbamoyl]-5-oxotetrahydrofuran-3-carboxylate
155 mg of (2S,3S)-2-[N-{(1R,2R,4E)-5-(2-benzoxazolyl)-1-methyl-2-(3,4-methylenedioxyphenyl)-4-pentenyl}-N-(2-naphthylmethyl)carbamoyl]-5-oxotetrahydrofuran-3-carboxylic acid prepared by deprotecting the ester of the compound of Example 67(1) with formic acid, 13.5 mg of ethanol and 36.0 mg of 4-dimethylaminopyridine, were dissolved in 2 ml of chloroform, and 57.0 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added thereto, followed by stirring at room temperature overnight. The reaction solution was poured into water and extracted with chloroform. The extract solution was dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain 123 mg (yield: 76%) of the above-identified compound as slightly yellow oily substance.

reactant | (2S,3S)-2-[N-{(1R,2R,4E)-5-(2-benzoxazolyl)-1-methyl-2-(3,4-methylenedioxyphenyl)-4-pentenyl}-N-(2-naphthylmethyl)carbamoyl]-5-oxotetrahydrofuran-3-carboxylic acid | 155 mg | O1C(=NC2=C1C=CC=C2)/C=C/C[C@@H]([C@@H](C)N(C(=O)[C@H]2OC(C[C@@H]2C(=O)O)=O)CC2=CC1=CC=CC=C1C=C2)C2=CC1=C(C=C2)OCO1 | C37H32N2O8
reactant | formic acid | C(=O)O | CH2O2
reactant | ethanol | 13.5 mg | C(C)O | C2H6O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 57.0 mg | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 36.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | Ethyl (2S,3S)-2-[N-{(1R,2R,4E)-5-(2-benzoxazolyl)-1-methyl-2-(3,4-methylenedioxyphenyl)-4-pentenyl}-N-(2-naphthylmethyl)carbamoyl]-5-oxotetrahydrofuran-3-carboxylate | 123 mg, yield: 76% | O1C(=NC2=C1C=CC=C2)/C=C/C[C@@H]([C@@H](C)N(C(=O)[C@H]2OC(C[C@@H]2C(=O)OCC)=O)CC2=CC1=CC=CC=C1C=C2)C2=CC1=C(C=C2)OCO1 | C39H36N2O8
